Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CS(=O)(=O)O[CH:1]1[CH2:2][CH2:3][S:4][CH2:5][CH2:6]1.[O:7]=[CH:8][c:9]1[cH:10][c:11]([F:12])[cH:13][cH:14][c:15]1[OH:16]>>[CH:1]1([O:16][c:15]2[c:9]([CH:8]=[O:7])[cH:10][c:11]([F:12])[cH:13][cH:14]2)[CH2:2][CH2:3][S:4][CH2:5][CH2:6]1,CS(=O)(=O)[O:101][CH:1]1[CH2:2][CH2:3][S:4][CH2:5][CH2:6]1.[O:7]=[CH:8][c:9]1[cH:10][c:11]([F:12])[cH:13][cH:14][c:15]1[OH:16]>>[CH:1]1([O:16][c:15]2[c:9]([CH:8]=[O:7])[cH:10][c:11]([F:12])[cH:13][cH:14]2)[CH2:2][CH2:3][S:4][CH2:5][CH2:6]1,SN1,"[([1, 101], 101), (16, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([C:7](=[O:8])[CH2:9][c:10]2[c:11]([Cl:12])[cH:13][n+:14]([O-:15])[cH:16][c:17]2[Cl:18])[c:19]2[c:20]1[O:21][C:22]1([CH2:23][CH2:24][CH2:25][CH2:26]1)[O:27]2>>[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([CH:7]([OH:8])[CH2:9][c:10]2[c:11]([Cl:12])[cH:13][n+:14]([O-:15])[cH:16][c:17]2[Cl:18])[c:19]2[c:20]1[O:21][C:22]1([CH2:23][CH2:24][CH2:25][CH2:26]1)[O:27]2,[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([C:7](=[O:8])[CH2:9][c:10]2[c:11]([Cl:12])[cH:13][n+:14]([OH:15])[cH:16][c:17]2[Cl:18])[c:19]2[c:20]1[O:21][C:22]1([CH2:23][CH2:24][CH2:25][CH2:26]1)[O:27]2.[BH4-:301].[CH3][OH1:302]>>[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([CH:7]([OH:8])[CH2:9][c:10]2[c:11]([Cl:12])[cH:13][n+:14]([OH:15])[cH:16][c:17]2[Cl:18])[c:19]2[c:20]1[O:21][C:22]1([CH2:23][CH2:24][CH2:25][CH2:26]1)[O:27]2,carbonyl_reduction,"[([301, 301.1], 7), ([7, 8], 8), (8, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.[CH3:15][C:16](=[O:17])[O:18][CH2:19][CH:20]1[CH:21]([NH2:22])[CH2:23][CH:24]2[CH2:25][N:26]([C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[CH2:34][CH:35]12>>[C:1](=[O:2])([CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[NH:22][CH:21]1[CH:20]([CH2:19][O:18][C:16]([CH3:15])=[O:17])[CH:35]2[CH:24]([CH2:23]1)[CH2:25][N:26]([C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[CH2:34]2,[CH3:15][C:16](=[O:17])[O:18][CH2:19][CH:20]1[CH:21]([NH2:22])[CH2:23][CH:24]2[CH2:25][N:26]([C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[CH2:34][CH:35]12.[OH:101][C:1](=[O:2])[CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[NH:22][CH:21]1[CH:20]([CH2:19][O:18][C:16]([CH3:15])=[O:17])[CH:35]2[CH:24]([CH2:23]1)[CH2:25][N:26]([C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[CH2:34]2,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (22, 1), ([1, 2], 2), (303, 22.1), ([22.1, 22], 22), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][CH2:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[CH3:9][N:10]1[CH2:11][CH2:12][C@H:13]2[CH2:14][O:15][c:16]3[cH:17][cH:18][c:19]([OH:20])[cH:21][c:22]3[C@H:23]2[CH2:24]1>>[CH2:1]([CH2:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[O:20][c:19]1[cH:18][cH:17][c:16]2[c:22]([cH:21]1)[C@@H:23]1[C@@H:13]([CH2:12][CH2:11][N:10]([CH3:9])[CH2:24]1)[CH2:14][O:15]2,[CH3:9][N:10]1[CH2:11][CH2:12][C@H:13]2[CH2:14][O:15][c:16]3[cH:17][cH:18][c:19]([OH:20])[cH:21][c:22]3[C@H:23]2[CH2:24]1.[OH:101][CH2:1][CH2:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([CH2:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[O:20][c:19]1[cH:18][cH:17][c:16]2[c:22]([cH:21]1)[C@@H:23]1[C@@H:13]([CH2:12][CH2:11][N:10]([CH3:9])[CH2:24]1)[CH2:14][O:15]2,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 20.1), ([20.1, 20], 20), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (20, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
